US09334290B2
A mixture of 3-(3-bromo-2-methylphenyl)-8-methoxy-1-methylquinazoline-2,4(1H,3H)-dione (380 mg, 1.01 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (309 mg, 1.22 mmol), potassium acetate (298 mg, 3.04 mmol) and PdCl2(dppf) DCM adduct (41.4 mg, 0.051 mmol) in dioxane (20 mL) was heated at 90° C. overnight. The cooled mixture was filtered and the filtrate was concentrated. The residue was purified by column chromatography on silica gel (24 g), eluting with EtOAc-hexanes (gradient from 20-55%), to give 8-methoxy-1-methyl-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazoline-2,4(1H,3H)-dione in 75% purity, used without further purification (486 mg, 85% yield). Mass spectrum m/z 423 (M+H)+.

reactant | 3-(3-bromo-2-methylphenyl)-8-methoxy-1-methylquinazoline-2,4(1H,3H)-dione | 1.01 mmol, 380 mg | BrC=1C(=C(C=CC1)N1C(N(C2=C(C=CC=C2C1=O)OC)C)=O)C | C17H15BrN2O3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.22 mmol, 309 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 3.04 mmol, 298 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.051 mmol, 41.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 8-methoxy-1-methyl-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazoline-2,4(1H,3H)-dione | 85% yield | COC=1C=CC=C2C(N(C(N(C12)C)=O)C1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C23H27BN2O5
